US03976674
In a suitable vessel, 32.8 g. of anhydrous sodium carbonate were dissolved in 500 ml. of deionized water. To this solution were added 100 g of 2-(3-phenoxyphenyl)propionic acid. The reaction mixture was agitated vigorously until all of the acid was in solution and reacted to form sodium 2-(3-phenoxyphenyl)propionate. The resulting reaction mixture was diluted to a total volume of 2 l with deionized water. The dilute propionate solution was transferred to a 4 liter beaker.

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(3-phenoxyphenyl)propionic acid | 100 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C(=O)O)C | C15H14O3
solvent | water | O | H2O
product | sodium 2-(3-phenoxyphenyl)propionate | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C(=O)[O-])C.[Na+] | InChI=1S/C15H14O3.Na/c1-11(15(16)17)12-6-5-9-14(10-12)18-13-7-3-2-4-8-13;/h2-11H,1H3,(H,16,17);/q;+1/p-1
